US07244730B2
(Step 6) 3-(Azidomethyl)-6-ethyl-2-pyridinecarbonitrile
After dissolving 5-(azidomethyl)-2-ethyl-1-pyridiniumolate (2.16 g, 12.1 mmol) in acetonitrile (25 ml), 1.77 ml of trimethylsilylnitrile (13.3 mmol) and 1.23 ml of dimethylcarbamoyl chloride (13.3 mmol) were added under a nitrogen stream and the mixture was stirred at room temperature for 66 hours. Saturated aqueous sodium hydrogencarbonate was added for treatment and extraction was performed with ethyl acetate. The extract was dried over anhydrous sodium sulfate, the filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (2.05 g) as a colorless oil. (90.4% yield)

reactant | 5-(azidomethyl)-2-ethyl-1-pyridiniumolate | 12.1 mmol, 2.16 g | N(=[N+]=[N-])CC=1C=CC(=[N+](C1)[O-])CC | C8H10N4O
reactant | dimethylcarbamoyl chloride | 13.3 mmol, 1.23 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-(Azidomethyl)-6-ethyl-2-pyridinecarbonitrile | 2.05 g, 90.4% yield | N(=[N+]=[N-])CC=1C(=NC(=CC1)CC)C#N | C9H9N5
